US05453427
Thiourea (80 g, 1.05 mol) and dimethyl acetylsuccinate (188 g, 1.0 mol) are added at room temperature to a solution of sodium (46 g, 2.0 mol) in methanol (800 ml). The reaction mixture is refluxed for 14 hours. The crystalline precipitate is filtered and added with stirring to a concentrated aqueous solution of hydrochloric acid (250 ml). The resulting colorless crystalline precipitate is filtered, washed with methanol and dried at high vacuum to give 4-hydroxy-2-mercapto-6-methyl-5-pyrimidinyl acetic acid (190 g, 95%).

reactant | Thiourea | 1.05 mol, 80 g | NC(=S)N | CH4N2S
reactant | dimethyl acetylsuccinate | 1.0 mol, 188 g | C(C)(=O)C(C(=O)OC)CC(=O)OC | C8H12O5
reactant | sodium | 2.0 mol, 46 g | [Na] | Na
solvent | methanol | 800 ml | CO | CH4O
product | 4-hydroxy-2-mercapto-6-methyl-5-pyrimidinyl acetic acid | 190 g, 95% | OC1=NC(=NC(=C1CC(=O)O)C)S | C7H8N2O3S
